US05952382
(b) Synthesis of 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid morpholide
1.8 ml (20.6 mmol) of morpholine and 40 ml of THF were introduced into a round-bottomed flask. A solution of 3.5 g (6.9 mmol) of 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid chloride in THF was added dropwise and the reaction mixture was stirred at room temperature for two hours. The reaction mixture was poured into water and extracted with ethyl acetate and the organic phase was separated by settling, dried over magnesium sulfate and evaporated. The solid obtained was triturated in hexane, filtered and dried. 2.8 g (74%) of the expected amide were collected, which amide had a melting point of 86°-7° C.

reactant | morpholine | 20.6 mmol, 1.8 ml | N1CCOCC1 | C4H9NO
reactant | 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid chloride | 6.9 mmol, 3.5 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)Cl)C=C2)OCOCCOC | C31H33ClO4
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid morpholide | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)N3CCOCC3)C=C2)OCOCCOC | C35H41NO5
